US05530107
α-D-Cellobiosyl bromide heptaacetate was prepared form α-D-cellobiose octaacetate and hydrogen bromide in glacial acetic acid using a modified procedure of Freudenberg and Nagari1.

reactant | α-D-cellobiose octaacetate | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC(=O)C)OC(=O)C)OC(=O)C)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)COC(=O)C)OC(=O)C)OC(=O)C)OC(=O)C | C28H38O19
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-D-Cellobiosyl bromide heptaacetate | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2OC(=O)C)OC(=O)C)Br)COC(=O)C)OC(=O)C)OC(=O)C)OC(=O)C | C26H35BrO17
